data/oMe_Silver.jsonl
{"reaction_id": "NR-003_1-CC1CO1_2-Cc1ccccc1","name": "Acyoin Condensation","level": "medium","reactants_smiles": ["C(=O)(CC1CO1)(OCc1ccccc1)"],"products_smiles": ["O=C(CC1CO1)C(O)CC1CO1"],"conditions": "Na, then H2O workup","mechanism": [{"step": 1,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "[C]([O-])(CC1CO1)(OCc1ccccc1)","step_weight": 0,"rationale": "Sodium metal donates an electron to the ester carbonyl, forming a radical anion stabilized by resonance between the carbonyl and alkoxide oxygen."},{"step": 2,"type": "radical","subtype": "radical_coupling","intermediate_smiles": "C([O-])(CC1CO1)(OCc1ccccc1)C([O-])(CC1CO1)(OCc1ccccc1)","step_weight": 0,"rationale": "Two carbon-centered radicals couple due to high radical reactivity, forming a C–C bond between α-carbons adjacent to electron-withdrawing carbonyls."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=C(CC1CO1)C(=O)CC1CO1","step_weight": 0,"rationale": "Alkoxide elimination occurs as the leaving group is stabilized by resonance and sodium counterion, forming a more conjugated 1,2-diketone."},{"step": 4,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "[O-]C(CC1CO1)=C([O])CC1CO1","step_weight": 0,"rationale": "A second electron from sodium reduces one carbonyl to a radical anion, favored by the electrophilicity of the carbonyl carbon."},{"step": 5,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "[O-]C(CC1CO1)=C([O-])CC1CO1","step_weight": 0,"rationale": "Further electron transfer reduces the other carbonyl, producing a dianion stabilized by delocalization over both oxygens."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O=C(CC1CO1)C([O-])CC1CO1","step_weight": 0,"rationale": "Proton transfer from solvent or protic impurities protonates one alkoxide, driven by the high basicity of the oxygen anion."},{"step": 7,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O=C(CC1CO1)C(O)CC1CO1","step_weight": 0,"rationale": "Final protonation during aqueous workup yields the neutral α-hydroxyketone, favored by the stability of the carbonyl and alcohol functionalities."}],"description": "In the acyloin condensation, sodium donates electrons to ester carbonyls, generating radical anions that couple to form a 1,2-diketone intermediate. Subsequent electron transfers and protonations under reductive conditions yield the α-hydroxyketone product after aqueous workup."}
